US05106878
A mixture of 2.17 g of 6-diethylamino-1-hexanol (J. Chem. Soc. 1942, 428), 1.52 g of 4-hydroxy-benzaldehyde and 3.3 g of triphenylphosphine in 100 ml of tetrahydrofuran was treated slowly at 20° with a solution of 1.97 g of diethyl azodicarboxylate. After the dropwise addition the mixture was stirred at room temperature for a further 5 hours. The reaction mixture was then evaporated in a rotary evaporator. The residue was chromatographed on 400 g of neutral aluminium oxide (activity grade III) with hexane:ethyl acetate 7:3). There were obtained 2.22 g (64%) of 4- [[6-(diethylamino)hexyl]oxy]benzaldehyde as a yellowish oil.

reactant | 6-diethylamino-1-hexanol | 2.17 g | C(C)N(CCCCCCO)CC | C10H23NO
reactant | 4-hydroxy-benzaldehyde | 1.52 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.97 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4- [[6-(diethylamino)hexyl]oxy]benzaldehyde | 2.22 g, 64% | C(C)N(CCCCCCOC1=CC=C(C=O)C=C1)CC | C17H27NO2
